US08633173B2
196 b) To a suspension of N-(2-bromo-phenyl)-methanesulfonamide (5.01 g, 20.0 mmol) and cesium carbonate (7.2 g, 22 mmol) in acetonitrile (20 mL) was added iodomethane (1.4 mL, 22 mmol). The mixture was stirred at room temperature for 24 hours then diluted with dichloromethane (30 mL), filtered through a plug of diatomaceous earth and evaporated. N-(2-Bromo-phenyl)-N-methyl-methanesulfonamide was isolated as a pale orange solid (5.22 g, 98%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.65 (d, J=8.0 Hz, 1H), 7.50 (d, J=7.9 Hz, 1H), 7.37 (t, J=7.4 Hz, 1H), 7.23 (t, J=8.2 Hz, 1H), 3.29 (s, 3H), 3.06 (s, 3H). MS=286, 288 (MH)+.

reactant | N-(2-bromo-phenyl)-methanesulfonamide | 20.0 mmol, 5.01 g | BrC1=C(C=CC=C1)NS(=O)(=O)C | C7H8BrNO2S
reactant | cesium carbonate | 22 mmol, 7.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 22 mmol, 1.4 mL | IC | CH3I
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(2-Bromo-phenyl)-N-methyl-methanesulfonamide | BrC1=C(C=CC=C1)N(S(=O)(=O)C)C | C8H10BrNO2S
